US05208230
Scheme C, step b: N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-propenyl-L-serine, methyl ester
Dissolve N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-L-serine, methyl ester (25 g, 63 mmol) in methylene chloride/cyclohexane (1:1, 600 mL). Add allyl trichloroacetimidate (26 g, 128 mmol) and trifluoromethanesulfonic acid (5 mL), 56.6 mmol). Stir at room temperature under a nitrogen atmosphere for 5 hours and dilute with methylene chloride. Wash with saturated aqueous sodium hydrogen carbonate, water, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography (gradient 20% ethyl acetate/hexane to 35% ethyl acetate/hexane) to give the title compound; mp 95°-97° C.

reactant | N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-L-serine, methyl ester | 63 mmol, 25 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N[C@@H](CO)C(=O)OC)CC1=CC=CC=C1 | C21H20N2O6
reactant | allyl trichloroacetimidate | 128 mmol, 26 g | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
reactant | trifluoromethanesulfonic acid | 5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | methylene chloride cyclohexane | 600 mL | C(Cl)Cl.C1CCCCC1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-propenyl-L-serine, methyl ester | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N[C@@H](COCC=C)C(=O)OC)CC1=CC=CC=C1 | C24H24N2O6
